US08071586B2
E) (R)-4-[3-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-2-methyl-[1,4]diazepan-5-one dihydrochloride
A solution of 0.500 g (1.26 mmol) of (R)-4-[3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-2-methyl-5-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester (example ID) in 8 ml of dichloromethane was treated at 0° C. with 3.16 ml (12.64 mmol, 10 eq.) of 4 M hydrogen chloride solution in dioxane. The solution was stirred overnight and warmed up to room temperature. The solution was evaporated, suspended in toluene and evaporated (3 times) to give 0.610 g (quantitative, purity: 76%) of the title compound as white solid. MS: 296.3 (MH+).

reactant | (R)-4-[3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-2-methyl-5-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 1.26 mmol, 0.500 g | C(C)(C)(C)OC(=O)N1[C@@H](CN(C(CC1)=O)CCCN1C[C@H](C2(CC2)CC1)O)C | C21H37N3O4
reactant | hydrogen chloride | 12.64 mmol, 4 M, 3.16 ml, 10 eq. | Cl | ClH
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (R)-4-[3-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-2-methyl-[1,4]diazepan-5-one dihydrochloride | Cl.Cl.O[C@H]1C2(CC2)CCN(C1)CCCN1C[C@H](NCCC1=O)C | InChI=1S/C16H29N3O2.2ClH/c1-13-11-19(15(21)3-7-17-13)9-2-8-18-10-6-16(4-5-16)14(20)12-18;;/h13-14,17,20H,2-12H2,1H3;2*1H/t13-,14-;;/m1../s1
